US09328138B2
Step 1: 1-(3-{[tert-butyl(dimethyl)silyl]oxy}propyl)-3,3-difluoropiperidine
To a solution of 3,3-difluoropiperidine hydrochloride (518 mg) in DMF (15 mL) was added cesium carbonate (3.21 g) and (3-bromopropoxy)-tert-butyldimethylsilane (0.838 mL). The resulting reaction mixture was heated to 50° C. for 1.5 hours before cooling back to room temperature. Water and ethyl acetate were added to the reaction mixture. The mixture was extracted with ethyl acetate (2×). The combined organics were washed with water (2×), brine, dried over magnesium sulfate, filtered and concentrated. Purification by flash chromatography (ISCO, 0 to 40% ethyl acetate in hexanes with 1% triethylamine) gave the desired product (612 mg). 1H NMR (400 MHz, CDCl3): δ (ppm) 4.20 (t, 1H), 3.71-3.64 (m, 2H), 3.46 (t, 1H), 2.62 (t, 1H), 2.50-2.47 (m, 1H), 2.44-2.42 (m, 1H), 2.05-1.98 (m, 1H), 1.91-1.82 (m, 2H), 1.77-1.67 (m, 4H), 0.89 (d, 9H), 0.05 (s, 3H), 0.04 (s, 3H).

reactant | 3,3-difluoropiperidine hydrochloride | 518 mg | Cl.FC1(CNCCC1)F
reactant | cesium carbonate | 3.21 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (3-bromopropoxy)-tert-butyldimethylsilane | 0.838 mL | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
reactant | Water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-{[tert-butyl(dimethyl)silyl]oxy}propyl)-3,3-difluoropiperidine | 612 mg | [Si](C)(C)(C(C)(C)C)OCCCN1CC(CCC1)(F)F | C14H29F2NOSi
